US08008303B2
2′-Methoxy-5′-nitro-biphenyl-4-carboxylic acid ethyl ester
A mixture of 2-bromo-1-methoxy-4-nitro-benzene (1 g), 4-ethoxycarbonyl-phenyl boronic acid (836 mg), cesium carbonate (1.4 g) and tetrakis(triphenylphosphine)palladium0 (catalytic quantity), in 1:2 aqueous DME (45 ml) was heated to reflux for 18 h. The mixture was then cooled and partitioned between water and ethyl acetate. The dried extracts were evaporated and the residue purified on silica gel. Elution with 5-40% ethyl acetate:petrol gave a yellow solid (997 mg).

reactant | 2-bromo-1-methoxy-4-nitro-benzene | 1 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | 4-ethoxycarbonyl-phenyl boronic acid | 836 mg | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | cesium carbonate | 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 45 ml | COCCOC | C4H10O2
product | 2′-Methoxy-5′-nitro-biphenyl-4-carboxylic acid ethyl ester | 997 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C16H15NO5
